US04472433
A mixture of iron powder (21.6 g) and ammonium chloride (2.2 g) in ethanol (200 ml) and water (75 ml) and ethyl 2-[2-nitro-3-(4-chlorophenylthio)phenyl]acetate (21.6 g) were treated in a similar manner to that of Preparation 28-(1) to give 2-oxo-7-(4-chlorophenylthio)indoline (14.9 g). mp 186°-188° C.

reactant | ammonium chloride | 2.2 g | [Cl-].[NH4+]
reactant | ethyl 2-[2-nitro-3-(4-chlorophenylthio)phenyl]acetate | 21.6 g | [N+](=O)([O-])C1=C(C=CC=C1SC1=CC=C(C=C1)Cl)CC(=O)OCC | C16H14ClNO4S
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | water | 75 ml | O | H2O
catalyst | iron | 21.6 g | [Fe] | Fe
product | 2-oxo-7-(4-chlorophenylthio)indoline | 14.9 g | O=C1NC2=C(C=CC=C2C1)SC1=CC=C(C=C1)Cl | C14H10ClNOS
